US05312828
A solution of ethyl-(Z)-3-[2-n-butyl-1-{(trimethylsilyl)ethoxymethyl}-1H-imidazol-5-yl]-2-propenoate (1 24 g, 3.52 mmol) in ethanol (10 mL) was heated at 60° C. for 3.5 hours with 5N hydrochloric acid solution (20 mL). The cooled reaction was basified with 10% sodium hydroxide solution, extracted with ethyl acetate, washed with water, dried and concentrated to 0.644 g (82%) of an oil. This was dissolved in methanol (15 mL), triethylamine (1.5 mL, 10.6 mmol), and di-tert-butyldicarbonate (2.3 g, 10.5 mmol) were added and the mixture was stirred for 18 hours at ambient temperature. The mixture was concentrated in vacuo and chromatographed over silica gel with 4:1 hexane/ethyl acetate to give 0.402 g (36%) of ethyl (Z)-3-[2-n-butyl-1-t-butoxy-carbonyl-1H-imidazol-4-yl]-2-propenoate as an oil. The (E)-isomer was prepared by the same procedure described for the (Z)-isomer. From 1.02 g (2.9 mmol) of ethyl (E)-3-[2-n-butyl-1-{(trimethylsilyl)ethoxy-methyl}-1H-imidazol-5-yl]-2-propenoate was obtained 334 mg (36%) ethyl (E)-3-[2-n-butyl-1-t-butoxycarbonyl-1H-imidazol-5-yl]-2-propenoate as an oil.

reactant | ethyl-(Z)-3-[2-n-butyl-1-{(trimethylsilyl)ethoxymethyl}-1H-imidazol-5-yl]-2-propenoate | 3.52 mmol, 24 g | C(C)OC(\C=C/C1=CN=C(N1COCC[Si](C)(C)C)CCCC)=O | C18H32N2O3Si
reactant | hydrochloric acid | 5N, 20 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | triethylamine | 10.6 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 10.5 mmol, 2.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl (Z)-3-[2-n-butyl-1-t-butoxy-carbonyl-1H-imidazol-4-yl]-2-propenoate | 0.402 g, 36% | C(CCC)C1N(C(C(=N1)\C=C/C(=O)OCC)=C=O)OC(C)(C)C | C17H26N2O4
